US05132328
Using the procedure described in Example 12, 2-(5-hydroxypyrid-3-yl)-2-methoxybut-1-yl methyl ether (0.21 g) was reacted with 2-bromomethylnaphthalene (0.25 g) to give 2-methoxy-2-[5-(naphth-2-ylmethoxy)pyrid-3-yl]but-1-yl methyl ether (0.13 g, 37%), as an oil.

reactant | 2-(5-hydroxypyrid-3-yl)-2-methoxybut-1-yl methyl ether | 0.21 g | COCC(CC)(OC)C=1C=NC=C(C1)O | C11H17NO3
reactant | 2-bromomethylnaphthalene | 0.25 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | 2-methoxy-2-[5-(naphth-2-ylmethoxy)pyrid-3-yl]but-1-yl methyl ether | 0.13 g, 37% | COCC(CC)(C=1C=NC=C(C1)OCC1=CC2=CC=CC=C2C=C1)OC | C22H25NO3
